US09388149B2
A mixture of 18.51 g (0.10 mol; 1.0 eq) of 2-fluoro-3-nitrobenzoic acid and 100 ml of thionyl chloride was refluxed for 3 hours. The excess thionyl chloride was then concentrated and the residue was co-evaporated twice with toluene. The resulting acid chloride was taken up in 250 ml of dichloromethane. To this mixture, cooled to 0° C., were added 16.56 g (0.10 mol; 1.0 eq) of L-proline methyl ester hydrochloride and then 30.50 ml (0.22 mol; 2.2 eq) of triethylamine. After 30 minutes at 0° C. and one hour at ambient temperature, the reaction medium was diluted and washed with 250 ml of a 1 M aqueous hydrochloric acid solution and then with 250 ml of a saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated. 25.64 g of methyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate were obtained. Yield=87%.

reactant | 2-fluoro-3-nitrobenzoic acid | 0.10 mol, 18.51 g, 1.0 eq | FC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4FNO4
reactant | L-proline methyl ester hydrochloride | 0.10 mol, 16.56 g, 1.0 eq | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.22 mol, 30.50 ml, 2.2 eq | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | methyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate | 25.64 g, Yield=87% | FC1=C(C(=O)N2[C@@H](CCC2)C(=O)OC)C=CC=C1[N+](=O)[O-] | C13H13FN2O5
